US04742060
A solution of 3.9 g of 2-nitroiminoimidazolidine and 4.6 g of 3-chlorophenylisocyanate in 80 ml of dry acetonitrile was refluxed for 3 hours. After cooling to room temperature, the precipitated crystals were filtered, and washed with ether to give desired 1-(3-chlorophenylcarbamoyl)-2-nitroiminoimidazolidine. The yield was 4.7 g.

reactant | 2-nitroiminoimidazolidine | 3.9 g | [N+](=O)([O-])N=C1NCCN1 | C3H6N4O2
reactant | 3-chlorophenylisocyanate | 4.6 g | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | 1-(3-chlorophenylcarbamoyl)-2-nitroiminoimidazolidine | ClC=1C=C(C=CC1)NC(=O)N1C(NCC1)=N[N+](=O)[O-] | C10H10ClN5O3
